US06977292B2
Aminoacetonitrile HCL salt (1 mmol (92.53 mg)) is dissolved in DMF 2 ml and DIEA 2 mmol 0.35 ml. Then Fmoc-Succinimidyl dicarbonate 1.1 mmol, (350 mg) is added and the reaction allowed to proceed overnight. Water and diluted HCL is added to bring the pH to 2. The product is extracted 3 times with ethylacetate and dried over Na2SO4 to yield Fmoc-NH—CH2—CN. 1 mmol of the Fmoc-NH—CH2—CN (278 mg) is dissolved in 2 ml of anhydrous methanol bubbled with HCl gas. The reaction is kept at 0° C. for 40 hrs (Voss and Gerlach Helv. Chim. Acta (1983) 66: 2294) to yield the desired Fmoc-glycine orthotrimethylester (Fmoc-NH—CH2—C(OCH3)3).

reactant | Aminoacetonitrile HCL salt | 1 mmol, 92.53 mg | Cl.NCC#N
reactant | DIEA | 2 mmol, 0.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Fmoc-Succinimidyl dicarbonate | 1.1 mmol, 350 mg | C(=O)(ON1C(C(CC1=O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)=O)OC(=O)[O-]
reactant | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Fmoc-NH—CH2—CN | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC#N | C17H14N2O2
